US06867185B2
Following an analogous experimental and purification procedure to Step 1i, (1S,4R,6S,14S,18R)-7-cis-14-tert-butoxycarbonylamino-18-(7-methoxy-2-phenylquinolin-4-yloxy)-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester (225 mg, 0.309 mmol) was reacted with 78 mg (2.0 mmol) of LiOH in 20.8 mL of 12.4:6.6:1.8 of THF/H2O/MeOH to afford (1S,4R,6S,14S,18R)-7-cis-14-tert-butoxycarbonylamino-18-(7-methoxy-2-phenylquinol-in-4-yloxy)-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid (178 mg, 82%): 1H NMR (500 MHz, CD3OD) δ 1.12-1.54 (m, 8H), 1.19 (s, 9H), 1.59 (dd, J=8.4, 5.0 Hz, 1H), 1.64 (dd, J=9.8, 4.9 Hz, 1H), 1.75-1.82 (m, 1H), 1.87-1.94 (m, 1H), 2.31 (q, J=9 Hz, 1H), 2.52-2.57 (m, 1H), 2.69 (dd, J=14, 7.5 Hz, 1H), 3.92 (s, 3H), 4.01 (dd, J=11.6, 3.2 Hz, 1H), 4.19 (dd, J=10.4, 2.4 Hz, 1H), 4.65 (t, J=8 Hz, 1H), 4.75 (d, J=11.6 Hz, 1H), 5.33 (t, J=9.6 Hz, 1H), 5.55-5.60 (m, 2H), 7.08 (dd, J=9.2, 2.1 Hz, 1H), 7.25 (s, 1H), 7.37 (d, J=2 Hz, 1H), 7.51-7.57 (m, 3H), 8.02-8.05 (m, 2H), 8.15 (d, J=9.2 Hz, 1H). LC-MS (Method E-retention time: 1.61), MS m/z 699 (M++1). HRMS m/z (M+H)+ calcd for C39H47N4O8: 699.3394, found 699.3395. Step 9j: Preparation of Compound 9, Example 9 (1S,4R,6S,14S,18R)-7-cis-[4-Cyclopropanesulfonylamino-carbonyl-18-(7-methoxy-2-phenylquinolin-4-yloxy)-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]nonadec-7-en-14-yl]carbamic acid tert-butyl ester

reactant | (1S,4R,6S,14S,18R)-7-cis-14-tert-butoxycarbonylamino-18-(7-methoxy-2-phenylquinolin-4-yloxy)-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester | 0.309 mmol, 225 mg | C(C)OC(=O)[C@@]12NC([C@@H]3C[C@H](CN3C([C@H](CCCCC\C=C/[C@@H]2C1)NC(=O)OC(C)(C)C)=O)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)=O | C41H50N4O8
reactant | LiOH | 2.0 mmol, 78 mg | [Li+].[OH-]
solvent | THF H2O MeOH | C1CCOC1.O.CO
product | (1S,4R,6S,14S,18R)-7-cis-14-tert-butoxycarbonylamino-18-(7-methoxy-2-phenylquinol-in-4-yloxy)-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid | 178 mg, 82% | C(C)(C)(C)OC(=O)N[C@H]1CCCCC\C=C/[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)=O)C(=O)O | C39H46N4O8
